US08629271B2
a) tert-Butyl 4-(5-(methoxycarbonyl)thiophene-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (0.6 g) and thiophene-2,5-dicarboxylic acid (1.7 g) in DMF (10 mL) was treated with triethylamine (2.75 mL) and cooled to 0° C. HATU (1.013 g) was added and the mixture stirred at 20° C. for 2 hours. The mixture was partitioned between ethyl acetate and brine containing acetic acid (2 mL), the organic layer was washed twice with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The residue was purified by flash silica chromatography using 1% acetic acid in ethyl acetate as solvent. This material was dissolved in THF (30 mL), treated with carbonyldiimidazole (0.332 g) and the mixture was allowed to stand at 45° C. for 1 hour. Methanol (20 mL) was added and the reaction heated at 50° C. for 30 minutes. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and brine. The organic layer was dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure. The crude product was purified by flash silica chromatography using 40% ethyl acetate in isohexane as solvent. Pure fractions were evaporated to dryness to afford the subtitled compound. Yield 0.45 g.

reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 0.6 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | thiophene-2,5-dicarboxylic acid | 1.7 g | S1C(=CC=C1C(=O)O)C(=O)O | C6H4O4S
reactant | triethylamine | 2.75 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 1.013 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(5-(methoxycarbonyl)thiophene-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | COC(=O)C1=CC=C(S1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C20H28N2O6S
